US08426604B2
2-[(3R)-3-{[5-({1-[2,4-Bis(trifluoromethyl)benzyl]-1H-indazol-5-yl}methylidene)-4-oxo-4,5-dihydro-1,3-thiazol-2-yl](methyl)amino}pyrrolidin-1-yl]acetamide
To a solution of 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyrrolidin-3-yl-amino)-thiazol-4-one (100 mg, 0.18 mmol) in DMF (2 mL) was added potassium carbonate (74 mg, 0.54 mmol) followed by 2-Bromo-acetamide (30 mg, 0.21 mmol). The reaction mixture was stirred at room temperature for 4 hours and partitioned between water and ethyl acetate. The ethyl acetate layer was washed with brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude solid. The crude solid was purified via flash chromatography (5% methanol in dichloromethane) to yield the title compound (82 mg, 75%).

reactant | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-(methyl-pyrrolidin-3-yl-amino)-thiazol-4-one | 0.18 mmol, 100 mg | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C2CNCC2)C)=O)C=CC(=C1)C(F)(F)F)(F)F | C25H21F6N5OS
reactant | potassium carbonate | 0.54 mmol, 74 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromo-acetamide | 0.21 mmol, 30 mg | BrCC(=O)N | C2H4BrNO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(3R)-3-{[5-({1-[2,4-Bis(trifluoromethyl)benzyl]-1H-indazol-5-yl}methylidene)-4-oxo-4,5-dihydro-1,3-thiazol-2-yl](methyl)amino}pyrrolidin-1-yl]acetamide | 82 mg, 75% | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N([C@H]2CN(CC2)CC(=O)N)C)=O)C=CC(=C1)C(F)(F)F)(F)F | C27H24F6N6O2S
